US04060528
A mixture of 10.4 parts of p-(2-thenoyl)hydratropic acid in 75 parts of hexamethylphosphoramide is heated to 50° C and there are added 1.3 parts of sodium hydride dispersion 78.3%. When the reaction is ceased, there are added 10 parts of N-(2-chloroethyl)-N,N-diethylamine and the whole is stirred overnight at 50° C. The reaction mixture is cooled and extracted with 240 parts of benzene and 100 parts of water. The organic layer is washed with diluted sodium hydroxide solution and with water, dried and evaporated. The oily residue is converted into the hydrochloride salt in 2-propanol. After cooling to -20° C, the precipitated salt is filtered off and dried, yielding 2-(diethylamino)ethyl p-(2-thenoyl)hydratropate hydrochloride; mp. 126.4° C.

reactant | p-(2-thenoyl)hydratropic acid | C1(=CC=CS1)C(=O)C1=CC=C(C(C(=O)O)C)C=C1 | C14H12O3S
reactant | sodium hydride | [H-].[Na+]
reactant | N-(2-chloroethyl)-N,N-diethylamine | ClCCN(CC)CC | C6H14ClN
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 2-(diethylamino)ethyl p-(2-thenoyl)hydratropate hydrochloride | Cl.C1(=CC=CS1)C(=O)C1=CC=C(C(C(=O)OCCN(CC)CC)C)C=C1 | InChI=1S/C20H25NO3S.ClH/c1-4-21(5-2)12-13-24-20(23)15(3)16-8-10-17(11-9-16)19(22)18-7-6-14-25-18;/h6-11,14-15H,4-5,12-13H2,1-3H3;1H
